US04767766
Step D: Preparation of 3-Methoxymethoxy-2-phenyl-7-azabenzothiophene
A suspension of 4.54 g (20 mmol) of 3-hydroxy-2-phenyl-7-azabenzo[b]thiophene and 2.75 g (22 mmol) of potassium t-butoxide in 50 mL of tetrahydrofuran was stirred until the solid dissolved. Then 2.0 g (25 mmol) of chloromethyl methyl ether was added and the solution was stirred at room temperature for 2 hours. The solution was partitioned between ether and water and the aqueous layer was washed with two portions of ether. The ether extracts were washed with brine, dried over MgSO4, and concentrated to 4.33 g (80%) of an oil that crystallized upon standing, m.p. 54° C.

reactant | 3-hydroxy-2-phenyl-7-azabenzo[b]thiophene | 20 mmol, 4.54 g | OC=1C2=C(SC1C1=CC=CC=C1)N=CC=C2 | C13H9NOS
reactant | potassium t-butoxide | 22 mmol, 2.75 g | CC(C)([O-])C.[K+]
reactant | chloromethyl methyl ether | 25 mmol, 2.0 g | COCCl | C2H5ClO
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 3-Methoxymethoxy-2-phenyl-7-azabenzothiophene | COCOC1=C(SC2=C1C=CC=N2)C2=CC=CC=C2 | C15H13NO2S
